US08471005B2
Following the procedure of example 532 (D), (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-{2-methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-amine (0.062 g, 0.00012 mol) and 2-Methoxymethyl phenylboronic acid (0.0226 g, 0.000132 mol) were reacted. Purification by prep plate chromatography gave [7-(2-Methoxymethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-{2-methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-amine (0.034 g, 51%) as a tan solid MP: 96-101 C; 1H-NMR (DMSO-d6, 400 MHz) δ 8.92 (s, 1H), 7.65-7.62 (m, 2H), 7.55 (m, 2H), 7.47-7.45 (t, 2H, J=3.56 Hz), 6.94-6.87 (q, 2H, J=4.56 Hz), 6.61-6.60 (d, 1H, J=2.28 Hz), 6.42-6.38 (d, 1H), 6.30-6.27 (d, 1H), 4.33 (s, 2H), 3.81 (s, 3H), 3.64-3.61 (d, 2H) 3.17 (s, 3H), 2.67-2.57 (m, 6H), 2.33 (br, 5H), 2.16 (s, 3H), 1.84-1.81 (m, 2H), 1.50-1.48 (m, 2H), 1.23-1.17 (br, 3H).

reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-{2-methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-amine | 0.00012 mol, 0.062 g | BrC1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)N2CCC(CC2)N2CCN(CC2)C)OC | C23H30BrN7O
reactant | 2-Methoxymethyl phenylboronic acid | 0.000132 mol, 0.0226 g | COCC1=C(C=CC=C1)B(O)O | C8H11BO3
product | [7-(2-Methoxymethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-{2-methoxy-4-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-phenyl}-amine | 0.034 g, 51% | COCC1=C(C=CC=C1)C1=CC=C2C=NC(=NN21)NC2=C(C=C(C=C2)N2CCC(CC2)N2CCN(CC2)C)OC | C31H39N7O2
